Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
headache and syncope
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ morbid obesity, HTN, HL, OSA, DM2, depression, asthma, 
history of HF previously admitted here with severe headache and 
given the presumptive diagnosis of pseudotumor cerebri (an 
opening pressure was never able to be obtained, he did have an 
unremarkable CTA/CTV, discharged on acetazolamide), now 
complains of severe headache times the last 3 days, gradual 
onset not similar to prior headache as current is global and 
prior was more frontal. In addition he reports 2 episodes of 
syncope, yesterday and today.  
He was evaluated in the ___ ED for headache on ___ 
starting gradual onset about 3 days ago with waxing/waning 
symptoms that is global. He denies fever, chills, photophobia. 
Of note, he has not been taking his acetazolamide. OSH labs were 
performed and in chart for reference - show WBC ~ 15.  
For snycope, when he attempted to get off the couch, he "passed 
out." He was unconscious for an unknown amount of time but 
reported left sided chest palpitations and worsening headache. 
He also reported that one of his cousins saw his face was 
droopy. He also reports various tingling and numbness that is 
also ___. He has never "blacked out" before. He did not have 
this with his prior headache or any time in the past. He does 
describe feeling slightly lightheaded prior to syncope. He 
denies any apparent trauma from the syncope, no neck pain. He 
had no tongue biting or incontinence. He went to ___ 
___, however they were unable to fit into their scanners, 
so he was transferred here.  
.  
In the ED, initial VS: ___ 155/102 20 93%. Physical exam 
limited secondary to habitus. EKG SR 83, NA/NI, sub-mm STE aVF, 
no STEMI. He was given toradol 30 mg IV, morphine 8 mg IV, 
compazine 10 mg IV, benadryl 25 mg IV for headache. Labs 
significant for WBC 16.5, Hgb 12.8. CT head showed no acute 
intracranial process. Prelim CXR with no acute abnormality. 
Neuro was consulted and said to admit to medicine for sycnope 
___. They will follow for headache.  
VS prior to transfer were 98.4 83 ___ 18 94% on BiPap  
.  
On the floor, he complianed of moderate headache. He appeared 
fatigue and hungry. He was caught chewing tobacco.  
.  
ROS: Denies fever, night sweats, vision changes, rhinorrhea, 
congestion, sore throat, cough, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
+ subjective chills, intermittent chest discomfort over past few 
days
 
Past Medical History:
1. Morbid obesity (420 lbs prior to recent stay in Rehab --> 490 
 
lbs now; recent attempt with ?8lbs weight loss; desire for  
bariatric surgery)  
2. HTN  
3. HL  
4. OSA on BiPAP at night  
5. DM2 on Byetta (exenatide) and metformin  
6. Mood/anxiety disorder on BDZ  
7. remote h/o suicide attempt ___  
8. Asthma/COPD on steroid controller and PRN albuterol  
9. chronic LBP on oxy/oxy  
10. reported h/o MRSA+ nasal swab at OSH in ___  
11. reported h/o cellulitis in bilateral LEs and abdominal wall  

12. h/o Left foot surgically-repaired Fx  
13. ?reported h/o heart failure, with OSH echo 2wk ago noting  
60%  
EF, pulmonary hypertension, concentric LVH, and mild valvular  
disease -- note that pt is on Lasix 80mg qWk for ___  
14. Erectile dysfunction on Cialis  
15. h/o surgical hernia repair
 
Social History:
___
Family History:
Maternal uncles died in their late-___ or ___ of cardiac causes
(d. ___ ; ___ s/p CABG @33 ; ___ ; ___ s/p CABG @38) 
Mother is alive, but morbidly obese with multiple medical 
problems 
Dad is alive, relatively healthy

 
Physical Exam:
ON ADMISSION:
VS: T 98.4 BP 150/92 HR 74 RR 22 poX 93 RA Glc 170  
GENERAL: Obese, NAD  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple  
HEART: Distant  
LUNGS: Distant  
ABDOMEN: Obese, pannus limiting exam  
EXTREMITIES: 1+ pretibial edema  
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact
.
ON DISCHARGE:
O:VS: Tc:98.1 Tm:98.3 BP:137/79(110-157/49-104) HR:70(64-76) 
RR:20 O2Sat:95BiPAP  
GENERAL: Obese, NAD  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple  
HEART: Distant  
LUNGS: Distant  
ABDOMEN: Obese, pannus limiting exam  
EXTREMITIES: 1+ pretibial edema  
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact
 
Pertinent Results:
ON ADMISSION:
___ 11:15PM BLOOD WBC-16.5* RBC-4.91 Hgb-12.8* Hct-39.5* 
MCV-80* MCH-26.2* MCHC-32.5 RDW-16.1* Plt ___
___ 11:15PM BLOOD Neuts-76.1* ___ Monos-2.9 Eos-1.3 
Baso-0.5
___ 11:15PM BLOOD Glucose-190* UreaN-12 Creat-1.0 Na-139 
K-4.3 Cl-99 HCO3-31 AnGap-13
.
SIGNIFICANT INTERVAL LABS:
___ 07:25PM BLOOD CK(CPK)-37*
___ 07:10AM BLOOD CK(CPK)-32*
___ 07:25PM BLOOD CK-MB-1 cTropnT-<0.01
___ 12:35PM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:10AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:10AM BLOOD Calcium-8.7 Phos-3.9 Mg-1.8
.
ON DISCHARGE:
___ 06:40AM BLOOD WBC-16.4* RBC-4.82 Hgb-12.9* Hct-39.7* 
MCV-82 MCH-26.8* MCHC-32.5 RDW-16.0* Plt ___
___ 06:40AM BLOOD Glucose-200* UreaN-16 Creat-1.0 Na-135 
K-4.0 Cl-100 HCO3-25 AnGap-14
___ 06:40AM BLOOD Calcium-9.1 Phos-3.1 Mg-2.0
.
STUDIES:
___ EKG: Sinus rhythm. Rightward axis. Low voltage. No 
previous tracing available for comparison.  
Rate PR QRS QT/QTc P QRS T 
 83 ___ 39 82 62
.
___ CXR: Chronic elevation of the right hemidiaphragm. 
Cardiomegaly, with elevated central venous pressure. No 
pneumonia or frank pulmonary edema. 
.
___ EKG: Sinus rhythm. Low voltage. Otherwise, normal 
tracing. Compared to the previous tracing of ___ no 
significant change.  
Rate PR QRS QT/QTc P QRS T 
 76 156 92 388/416 46 71 67
.
___ CT HEAD NON-CON:  No acute intracranial process. Please 
note if clinical concern is high for mass, then contrast MR is 
more sensitive.
.
___ EEG:  This is a normal mostly drowsy or asleep EEG. No 
focal 
abnormalities or epileptiform discharges are present. If 
clinically 
indicated, continuous EEG recording with automated spike and 
seizure 
detection algorithms may provide additional diagnostic 
information.
 
Brief Hospital Course:
This is the brief hospital course for a ___ year-old morbidly 
obese gentleman who presented with headache and syncope in the 
setting of chronic HTN, DMII, OSA, and a recent "possible," 
diagnosis of pseudotumor cerebri. The following is a problem 
list for the patient and the interventions which were done 
during this admission.
.
Syncope:
Normal EEG ruled out seizure. Cardiac etiologies were ruled out 
with normal telemetry, troponins, and numerous EKGs. His 
complaints of dizziness upon standing were suggestive of 
orthostatic hypotension as the cause of his syncope. 
Orthostatics normal during hospital stay, most likely dehydrated 
from acetazolamide use at home. 
-Encouraged PO intake on discharge
.
Headache: Neurology and ophthomology consults recommended 
full,complete ___ of pseudotumor cerebri. Due to patient's 
body habitus, LP for opening pressure and MRI for rule out 
lesion/infection could not be done here. Visual field testing 
should be performed as an outpatient.  
-Continue Acetazolamide 500 mg BID as outpatient.
-Follow-up with PCP in ___ for referral to neurologist 
and ophthomologist for visual field testing and management of 
pseudotumor cerebri as well as query into leukocytosis baseline.
.
Leukocytosis: No evidence of infection, afebrile entire hospital 
stay, no cough, negative UA. Patient with leukocytosis at 
baseline.
.
Chronic Low Back Pain: on narcotics for pain control: home 
Oxycotin and Oxycodone
.
OSA: BiPAP almost constantly while here, on it at home as well  
.  
Lower extremity edema: Non-pitting on lower extremities, on home 
lasix  
. 
HTN: Blood pressure under control, continue Metoprolol at home 
and lasix
. 
HL: Started Atorvastin 80 mg, continued Zetia
.  
Obesity: Morbid obesity, given fall precautions, nutrition 
consult 
. 
Asthma/COPD: Appears stable, continued home advair, albuterol  
.
DM2: Continue home Exenatide and Metformin
.
An appointment with the patient's PCP was scheduled for the 
following week. He was told and encouraged to attend to receive 
a neurologist and ophthomologist referral. The patient was also 
encouraged to remind his PCP to ___ his leukocytosis in 
further detail.
 
Medications on Admission:
1. simvastatin 40 mg Tablet Sig: Two (2) Tablet PO QHS (once a  
day (at bedtime)).  
2. Zetia 10 mg Tablet Sig: One (1) Tablet PO once a day.  
3. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a week.  
4. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig:  

One (1) Disk with Device Inhalation BID (2 times a day).  
5. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
6. Byetta 10 mcg/0.04 mL Pen Injector Sig: One (1) Subcutaneous  

twice a day.  
7. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable  

PO DAILY (Daily).  
8. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig:  
___ Puffs Inhalation Q4H (every 4 hours) as needed for SOB.  
9. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for  
Nebulization Sig: One (1) Inhalation Q4H (every 4 hours) as  
needed for SOB.  
10. multivitamin Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
11. oxycodone 40 mg Tablet Extended Release 12 hr Sig: Three (3) 
 
Tablet Extended Release 12 hr PO Q12H (every 12 hours) as needed 
 
for chronic pain (home medication/dose).  
12. miconazole nitrate 2 % Cream Sig: One (1) Appl Topical BID  
(2 times a day).  
Disp:*1 tube* Refills:*2*  
13. miconazole nitrate 2 % Powder Sig: One (1) Appl Topical TID  

(3 times a day) as needed for yeast infection.  
14. cyclobenzaprine 10 mg Tablet Sig: 0.5 Tablet PO TID (3 times 
 
a day) as needed for muscle spasm.  
Disp:*30 Tablet(s)* Refills:*0*  
15. oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q6H (every 6  
hours) as needed for low back pain.
 
Discharge Medications:
1. ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
4. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q6H (every 6 hours) as needed for SOB.  
5. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for back pain.
Disp:*3 Tablet(s)* Refills:*0*
6. oxycodone 40 mg Tablet Extended Release 12 hr Sig: Three (3) 
Tablet Extended Release 12 hr PO Q12H (every 12 hours).  
7. acetazolamide 250 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).
Disp:*120 Tablet(s)* Refills:*2*
8. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
9. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
10. Byetta 10 mcg/0.04 mL Pen Injector Sig: One (1) SC 
Subcutaneous twice a day.  
11. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO once a day.  
12. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation every ___ hours as 
needed for shortness of breath or wheezing.  
13. Multiple Vitamins     Tablet Sig: One (1) Tablet PO once a 
day.  
14. cyclobenzaprine 10 mg Tablet Sig: 0.5 Tablet PO three times 
a day as needed for muscle spasms.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: likely Pseudotumor Cerebri 
Secondary : Dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___. You were admitted for headache and fainting 
spells. Neurology was consulted and determined that you most 
likely have pseudotumor cerebri but additional tests are needed 
to make a diagnosis. You should follow up with your primary care 
physician on ___ at 11:40 so that he can refer you 
to a neurologist and set up visual field testing with an eye 
doctor, ___.  

Additionally, we tested you for possible causes of your fainting 
spells and determined that most likely you were dehydrated from 
taking the diuretic acetazolamide for you headache. You had an 
EEG which did not show signs of a seizure. We encourage you to 
increase your intake of water to stay hydrated while taking this 
medication. 

We have made the following changes to your medications:
- Change Acetazolamide to 500 mg twice a day
- Change Simvastatin to Atorvastatin 40 mg daily
 
Followup Instructions:
___